US06774138B2
2-[1,2-Dibromo-2-(3-fluorophenyl)ethyl]-6-methylpyrazine (2.97 g, 7.94 mmol) was dissolved in THF (40 mL), treated with DBU (8.7 mL, 63 mmol), and heated to reflux. After 16 h the reaction mixture was cooled, filtered, concentrated in vacuo, and purified by column chromatography eluting with 80:20 then 75:25 hexane:ethyl acetate to afford 2-[(3-fluorophenyl)ethynyl]-6-methylpyrazine (427 mg, 25% yield). This material was carried on to the salt formation without further purification.

reactant | 2-[1,2-Dibromo-2-(3-fluorophenyl)ethyl]-6-methylpyrazine | 7.94 mmol, 2.97 g | BrC(C(C1=CC(=CC=C1)F)Br)C1=NC(=CN=C1)C | C13H11Br2FN2
reactant | DBU | 63 mmol, 8.7 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-[(3-fluorophenyl)ethynyl]-6-methylpyrazine | 427 mg, 25% yield | FC=1C=C(C=CC1)C#CC1=NC(=CN=C1)C | C13H9FN2
